US05371101
In the same manner as in Reference Example 5, starting from 0.962 g of (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.19 g of 1-[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]-5(1H,4H)-tetrazolone, 1.31 g of 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]-5(1H,4H)-tetrazolone was obtained as a colorless oil.

reactant | (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 0.962 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1-[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]-5(1H,4H)-tetrazolone | 1.19 g | FC(COC1=CC=C(C=C1)N1N=NNC1=O)(C(F)(F)F)F | C10H7F5N4O2
product | 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]-5(1H,4H)-tetrazolone | 1.31 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=NN(C2=O)C2=CC=C(C=C2)OCC(C(F)(F)F)(F)F)CO1 | C20H15F7N4O3
